US05039672
4. Cis and trans methyl 2,3-dihydro-6-fluoro-2-(2-phenylethyl)-4H-1-benzopyran-4-carboxylate
Cis and trans 2,3-dihydro-6-fluoro-2-(2-phenylethyl)-4H-1-benzopyran-4-carboxylic acid (2.9 gm) was dissolved in methanol, cooled to 0° C., and the mixture saturated with gaseous HCl. After 24 hours, the mixture was concentrated in vacuo, and the residue partitioned between ethyl acetate and saturated sodium bicarbonate. The organic layer was washed with brine, dried (Na2SO4), filtered and evaporated. The residue was purified by column chromatography (2:1 hexane/diethyl ether, SiO2) to yield the title compound (1.9 gm, Rf=0.3,2:1 hexane/diethyl ether, SiO2).

reactant | trans 2,3-dihydro-6-fluoro-2-(2-phenylethyl)-4H-1-benzopyran-4-carboxylic acid | 2.9 gm | FC=1C=CC2=C([C@H](C[C@@H](O2)CCC2=CC=CC=C2)C(=O)O)C1 | C18H17FO3
reactant | HCl | Cl | ClH
reactant | methanol | CO | CH4O
product | trans methyl 2,3-dihydro-6-fluoro-2-(2-phenylethyl)-4H-1-benzopyran-4-carboxylate | 1.9 gm | FC=1C=CC2=C([C@H](C[C@@H](O2)CCC2=CC=CC=C2)C(=O)OC)C1 | C19H19FO3
